US04725610
A mixture of butyramide (19.88 g) and 1.3-dichloroacetone (24.14 g) was heated at 130° C. for 1.5 hours. After cooling, the mixture was diluted with water, neutralized with aqueous sodium bicarbonate solution and extracted with ethyl ether. The extract was washed with water, dried (MgSO4) and concentrated. The residue was purified by chromatography on silica gel with acetone-hexane (1:9) to yield 4-chloromethyl-2-propyloxazole as an oil (10.70 g 35.3%). NMR (CDCl3)δ: 0.97 (3H, t, J=7.5 Hz), 1.79 (2H, sext, J=7.5 Hz), 2.72 (2H, t, J=7.5 Hz), 4.47 (2H, s), 7.53 (1H, s).

reactant | butyramide | 19.88 g | C(CCC)(=O)N | C4H9NO
reactant | 1.3-dichloroacetone | 24.14 g | ClCC(=O)CCl | C3H4Cl2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 4-chloromethyl-2-propyloxazole | ClCC=1N=C(OC1)CCC | C7H10ClNO
